### ISSUE TITLE
`cases` can reorder equally named hypotheses

### ISSUE THREAD

**Issue by digama0** [leanprover/lean4#1556]
```lean
example (P : Nat → Prop) (a) (h : ∃ n, a = n + 1 ∧ P n) : ∃ n, P n := by
  let ⟨n', e, h⟩ := h
  cases e
  exact ⟨_, h⟩
  -- application type mismatch
  --   Exists.intro ?m.12045 h
  -- argument
  --   h
  -- has type
  --   ∃ n, n' + 1 = n + 1 ∧ P n : Prop
  -- but is expected to have type
  --   P ?m.12045 : Prop
```
Before the cases, the state is:
```
P: Nat → Prop
a: Nat
: ∃ n, a = n + 1 ∧ P n
n': Nat
e: a = n' + 1
h: P n'
⊢ ∃ n, P n
```
The first `h: ∃ n, a = n + 1 ∧ P n` argument (name elided in the display) is being shadowed by the `h: P n'` argument. After cases, the state is:
```
case refl
P: Nat → Prop
n': Nat
: P n'
h: ∃ n, n' + 1 = n + 1 ∧ P n
⊢ ∃ n, P n
```
Because `h: P n'` did not need to be rewritten but `h: ∃ n, a = n + 1 ∧ P n` did, `h: ∃ n, a = n + 1 ∧ P n` got moved to the end of the hypothesis list, meaning that now `h` refers to `h: ∃ n, a = n + 1 ∧ P n` instead of `h: P n'` and the `exact` fails.

**Comment by sorawee** [comment]
I just got hit by this, but from `subst` rather than `cases`.
